US07932271B2
N-[4-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-methylpyridin-2-yl]methanesulfonamide
To a methylene chloride (5 ml) solution of [4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-methylpyridin-2-yl]amine (133 mg, 0.325 mmol) and pyridine (39 μl, 0.488 mmol) was added methanesulfonyl chloride (28 μl, 0.358 mmol) under ice cooling. The reaction mixture was stirred at room temperature for 2.5 hours. To the reaction mixture were added pyridine (26 μl, 0.325 mmol) and methanesulfonyl chloride (25 μl, 0.325 mmol). After the resulting mixture was stirred at room temperature for 16 hours, pyridine (26 μl, 0.325 mmol) and methanesulfonyl chloride (25 μl, 0.325 mmol) were added thereto. The resulting mixture was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated under reduced pressure. To the residue thus obtained was added ethyl acetate. The resulting mixture was washed sequentially with water and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=3:2 eluate was concentrated under reduced pressure to give the title compound (108 mg, 0.222 mmol, 68%) as a white solid. The resulting white solid was washed with hexane-ether, and collected by filtration to give the title compound (67 mg) as a white powder.

reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | [4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-methylpyridin-2-yl]amine | 0.325 mmol, 133 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC(=NC=C1C)N)C1=C(C=CC(=C1)F)F | C19H15ClF2N2O2S
reactant | pyridine | 0.488 mmol, 39 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.358 mmol, 28 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.325 mmol, 26 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.325 mmol, 25 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.325 mmol, 26 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.325 mmol, 25 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-methylpyridin-2-yl]methanesulfonamide | 0.222 mmol, 108 mg, 68% | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC(=NC=C1C)NS(=O)(=O)C)C1=C(C=CC(=C1)F)F | C20H17ClF2N2O4S2
